US07405300B2
Phosphorous oxychloride (500 μL, 5.39 mmol) is added slowly to a stirred solution of dimethylformamide (516 μL) in dichloromethane (516 μL) at 0-5° C. After 15 min, a solution of 1-(pyridin-3-yl)-1,3-dihydroindol-2-one (250 mg, 1.2 mmol) and pyridine (258 μL) in dichloromethane (2 mL) is added. The reaction mixture is warmed to room temperature and stirred for 24 hr. The reaction is diluted with water, made basic with ammonium hydroxide, extracted with dichloromethane and the extract is concentrated. The residue is treated with phosphorous oxychloride (5 mL) and heated at reflux for 2 hr. After cooling to room temperature, the excess phosphorous oxychloride is removed and the residue is treated with ice/water, made basic with ammonium hydroxide and extracted with dichloromethane. The combined extract is washed with brine, dried, filtered and concentrated. The residue is purified by chromatography eluting with pentane-30% ethyl acetate. Product containing fractions are combined and concentrated to afford 2-chloro-1-(pyridin-3-yl)-1,3-dihydroindole-3-carboxaldehyde (42 mg, 14% yield) as a yellow solid.

reactant | Phosphorous oxychloride | 5.39 mmol, 500 μL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | dimethylformamide | 516 μL | CN(C=O)C | C3H7NO
reactant | 1-(pyridin-3-yl)-1,3-dihydroindol-2-one | 1.2 mmol, 250 mg | N1=CC(=CC=C1)N1C(CC2=CC=CC=C12)=O | C13H10N2O
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | dichloromethane | 516 μL | ClCCl | CH2Cl2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | water | O | H2O
solvent | pyridine | 258 μL | N1=CC=CC=C1 | C5H5N
product | 2-chloro-1-(pyridin-3-yl)-1,3-dihydroindole-3-carboxaldehyde | 42 mg, 14% yield | ClC1N(C2=CC=CC=C2C1C=O)C=1C=NC=CC1 | C14H11ClN2O
